US08735588B2
Step A: Preparation of 3-bromo-2-oxo-butyric acid ethyl ester
The 2-oxo-butyric acid ethyl ester prepared above was dissolved in chloroform (100 mL) and bromine (20.964 g, 131.19 mmol) was added dropwise at room temperature. The reaction mixture was allowed to stir for 18 h. Concentration of the reaction mixture under reduced pressure provided 12.0 g of the title compound as an orange oil. 1H NMR (CDCl3) δ 4.39 (q, 2H), 4.32 (q, 1H), 1.88 (d, 3H), 1.39 (t, 3H).

reactant | 2-oxo-butyric acid ethyl ester | C(C)OC(C(CC)=O)=O | C6H10O3
reactant | bromine | 131.19 mmol, 20.964 g | BrBr | Br2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-2-oxo-butyric acid ethyl ester | 12.0 g | C(C)OC(C(C(C)Br)=O)=O | C6H9BrO3
